US04012510
30 g. of 11β-hydroxy-1,4,16-pregnatriene-3,20-dione is combined in 300 ml. of absolute pyridine with 30 ml. of trimethylchlorosilane and agitated for 24 hours at room temperature. The mixture is then stirred into ice water, the thus-precipitated sediment is vacuum-filtered, washed out with water, and taken up in methylene chloride. After evaporation, 36.5 g. of crude 11β-trimethylsilyloxy-1,4,16-pregnatriene-3,20-dione is obtained. A sample recrystallized from diisopropyl ether melts at 196°- 197.5° C.

reactant | 11β-hydroxy-1,4,16-pregnatriene-3,20-dione | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(C)=O)[C@]2(C1)C)=O)C | C21H26O3
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 11β-trimethylsilyloxy-1,4,16-pregnatriene-3,20-dione | C[Si](O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(C)=O)[C@]2(C1)C)=O)C)(C)C | C24H34O3Si
